US08623859B2
N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (100 mg, 0.3 mmol) was dissolved in DCE (6 mL) and CDI (195 mg, 0.6 mmol) was added. The reaction was stirred at room temperature until complete as determined by LCMS. 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine (54 mg, 0.3 mmol) and DIPEA (0.63 mL, 1.8 mmol) was added and the reaction stirred for 4 days. The reaction was washed with saturated aqueous NH4Cl (6 mL) and the aqueous wash extracted with DCE (3×6 mL). The combined organic extracts were dried over MgSO4 and the solvent removed in vacuo. The resulting crude product was purified using prep method B to afford the title compound.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.3 mmol, 100 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.6 mmol, 195 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethanamine | 0.3 mmol, 54 mg | N1C(=NCC1)C1=CC=C(C=C1)CCN | C11H15N3
reactant | DIPEA | 1.8 mmol, 0.63 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
product | N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxamide | N1C(=NCC1)C1=CC=C(C=C1)CCNC(=O)C1=COC(=C1)CN(C)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C27H32N4O5S
